US07273878B2
To 40 ml of N,N-dimethylformamide were dissolved 4.00 g (20 mmol) of 4,4-difluoro-3-methyl-3-butenyl methanesulfonate and 4.00 g (22 mmol) of 4-methyl-2-(methylthio)pyrimidine-5-carboxylic acid, followed by the addition of 3.70 g (44 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate, the addition of “Florisil” and filtering. The solution was concentrated under reduced pressure to obtain 5.30 g (yield: 92%) of 4,4-difluoro-3-methyl-3-butenyl 4-methyl-2-(methylthio)-pyrimidine-5-carboxylate.

reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | 4,4-difluoro-3-methyl-3-butenyl methanesulfonate | 20 mmol, 4.00 g | CS(=O)(=O)OCCC(=C(F)F)C | C6H10F2O3S
reactant | 4-methyl-2-(methylthio)pyrimidine-5-carboxylic acid | 22 mmol, 4.00 g | CC1=NC(=NC=C1C(=O)O)SC | C7H8N2O2S
reactant | sodium hydrogencarbonate | 44 mmol, 3.70 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4,4-difluoro-3-methyl-3-butenyl 4-methyl-2-(methylthio)-pyrimidine-5-carboxylate | 5.30 g, yield: 92% | CC1=NC(=NC=C1C(=O)OCCC(=C(F)F)C)SC | C12H14F2N2O2S
